US08242280B2
To a solution of (3-bromo-phenyl)-tert-butoxycarbonylamino-acetic acid (490 mg, 1.49 mmol) in THF (10 mL) at room temperature was added sodium hydride (125 mg, 60% inmineral oil, 3.1 mmol) and the resulting pale yellow suspension was stirred at room temperature for 3 hours. Methyl iodide (528 mg, 3.7 mmol) was added and the resulting mixture was stirred overnight. Satuated sodium chloride (10 mL) was added and the aqueous phase pH was adjusted to 5 by addition of 1 N hydrochloric acid. The resulting mixture was extracted with ethyl acetate (10 mL×3) and the combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified using a gradient of methanol in dichloromethane to afford (3-bromo-phenyl)-(tert-butoxy-carbonyl-methyl-amino)-acetic acid (390 mg, 76%) as an oil. MS: m/z 344 (M+H+).

reactant | (3-bromo-phenyl)-tert-butoxycarbonylamino-acetic acid | 1.49 mmol, 490 mg | BrC=1C=C(C=CC1)C(C(=O)O)NC(=O)OC(C)(C)C | C13H16BrNO4
reactant | sodium hydride | 3.1 mmol, 125 mg | [H-].[Na+]
reactant | Methyl iodide | 3.7 mmol, 528 mg | CI | CH3I
reactant | sodium chloride | 10 mL | [Cl-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3-bromo-phenyl)-(tert-butoxy-carbonyl-methyl-amino)-acetic acid | 390 mg, 76% | BrC=1C=C(C=CC1)C(C(=O)O)N(C)C(=O)OC(C)(C)C | C14H18BrNO4
